US07655666B2
CH3SO2NHNH2 (79.5 mg, 1.1 equiv) and i-Pr2NEt (225 μL, 2 equiv) were added to a solution of 2-(4-chloro-phenoxycarbonylamino)-4-isopropyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (281 mg, 0.65 mmol) in dioxane (8 mL). The mixture was stirred for 16 h (TLC control) at 80° C. The mixture was evaporated to dryness. The crude product was purified by flash chromatography (MeOH/DCM (1:9)) to provide N-[7-isopropyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide as a white solid (120 mg, 48%) (ESI-MS: m/z 378 [M+H]+, rt 4.20 min).

reactant | CH3SO2NHNH2 | 79.5 mg, 1.1 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 225 μL, 2 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-chloro-phenoxycarbonylamino)-4-isopropyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 0.65 mmol, 281 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(C)C)NC(=O)OC1=CC=C(C=C1)Cl)=O | C22H22ClN3O4
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-[7-isopropyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 120 mg, 48% | C(C)(C)C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C | C16H19N5O4S
